US04156732
2-(4-Chloro-3-sulfamoylbenzoyl)-3-methyl-benzo[b]thiophene
is obtained as described in Example 1 from 2.5 g 4-chloro-3-sulfamoylbenzoyl chloride, 1.6 g 3-methylbenzo[b]thiophene and 3 g aluminum chloride in 50 ml chlorobenzene. Colorless crystals, m.p. 210° C.

reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 2.5 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 3-methylbenzo[b]thiophene | 1.6 g | CC=1C2=C(SC1)C=CC=C2 | C9H8S
reactant | aluminum chloride | 3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(4-Chloro-3-sulfamoylbenzoyl)-3-methyl-benzo[b]thiophene | ClC1=C(C=C(C(=O)C2=C(C3=C(S2)C=CC=C3)C)C=C1)S(N)(=O)=O | C16H12ClNO3S2
